US06291464B1
To a solution of N-piperazinyl-p-fluorobenzamide hydrobromide (300 mg) and triethylamine (0.412 ml) in dichloromethane (6 ml) was added phenyl isocyanate (0.186 ml) at ambient temperature, and the reaction mixture was stirred at the same temperature for 1 hour. The precipitate was filtered, then washed with dichloromethane and water. The residue was dried to give N-(4-phenylcarbamoyl-1-piperazinyl)-p-fluorobenzamide (0.23 g).

reactant | N-piperazinyl-p-fluorobenzamide hydrobromide | 300 mg | Br.N1(CCNCC1)NC(C1=CC=C(C=C1)F)=O
reactant | triethylamine | 0.412 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.186 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-(4-phenylcarbamoyl-1-piperazinyl)-p-fluorobenzamide | 0.23 g | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C18H19FN4O2
